US04859761
N,N'-Bis(allyl)carbodiimide
1.56 g of N,N'-bis(allyl)thiourea, 2.4 g of triethylamine and 3.07 g of 2-chloro-1-methylpyridinium iodide are reacted in 40 ml of acetonitrile and the reaction mixture is worked up as described in Example 4. The product is obtained as a faintly yellowish oil.

reactant | N,N'-bis(allyl)thiourea | 1.56 g | C(C=C)NC(=S)NCC=C | C7H12N2S
reactant | triethylamine | 2.4 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1-methylpyridinium iodide | 3.07 g | [I-].ClC1=[N+](C=CC=C1)C
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | N,N'-Bis(allyl)carbodiimide | C(C=C)N=C=NCC=C | C7H10N2
